US09278982B2
piperazine-1-carboxylic acid ethyl ester (200 mg, 1.26 mmol) was treated with chloroacetyl chloride (186 mg, 1.65 mmol) in anhydrous CH2Cl2 (10 mL) containing DIEA (490 mg, 3.80 mmol) at 0° C. The mixture was stirred and warmed to 27° C. for 4 h. The mixture was washed with 1 M HCl(aq). The organic phase was dried over MgSO4, and concentrated under reduced pressure to give ethyl 4-(2-chloroacetyl)piperazine-1-carboxylate (275 mg, 93% yield). C9H15ClN2O3; transparent oil; 1H NMR (400 MHz, CDCl3) δ 4.15 (2H, q, J=7.2 Hz) 4.06 (2H, s), 3.60 (2H, m), 3.54 (2H, m), 3.49 (4H, m), 1.27 (3H, t, J=7.2 Hz); 13C NMR (100 MHz, CDCl3) δ 164.3, 154.3, 61.4, 45.8, 43.5, 43.1, 41.8, 40.8, 14.7; ESI-HRMS calcd for C9H16ClN2O3: 235.0849. found: m/z 235.0852 [M+H]+.

reactant | piperazine-1-carboxylic acid ethyl ester | 1.26 mmol, 200 mg | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | chloroacetyl chloride | 1.65 mmol, 186 mg | ClCC(=O)Cl | C2H2Cl2O
reactant | DIEA | 3.80 mmol, 490 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | ethyl 4-(2-chloroacetyl)piperazine-1-carboxylate | 275 mg, 93% yield | ClCC(=O)N1CCN(CC1)C(=O)OCC | C9H15ClN2O3
